US07799933B2
A suspension of 1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid methyl ester (35.09 g, 0.09 mol) in methanol (0.27 L) and tetrahydrofuran (95.00 mL) was treated with a 3N solution of KOH in water (93.00 mL, 0.28 mol) and stirred at room temperature for 18 hours, then at 45° C. for 2 hours. The organic solvents were evaporated and the residual aqueous slurry diluted with water (0.45 L) and cooled to 0° C. The mixture was set to pH 1 with HCl 3N (85.00 mL) and the precipitated solid was filtered and dried under vacuum. 1-(2-Methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid was obtained as an off-white solid, 34.08 g (100%), MS (ISP): m/e=360.1 (M−H).

reactant | 1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid methyl ester | 0.09 mol, 35.09 g | COC(=O)C1=CC=C2CCCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)C)OC | C19H21NO5S
reactant | KOH | [OH-].[K+]
reactant | water | 0.28 mol, 93.00 mL | O | H2O
solvent | methanol | 0.27 L | CO | CH4O
solvent | tetrahydrofuran | 95.00 mL | O1CCCC1 | C4H8O
product | 1-(2-Methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid | COC1=C(C=C(C=C1)C)S(=O)(=O)N1CCCC2=CC=C(C=C12)C(=O)O | C18H19NO5S
